US08664401B2
Step C) Ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate
Cesium carbonate (2.01 g, 6.16 mmol) was added to a solution of the 5-fluoro-4-iodopyridin-2(1H)-one (491 mg, 2.06 mmol) and ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate (767 mg, 2.67 mmol in THF (30 mL). The resulting suspension was heated to reflux and stirred at this temperature overnight. The reaction was filtered through celite (˜1 inch), and the filter pad was washed with ethyl acetate (2×30 ml). The combined filtrates were concentrated and the crude was purified via flash chromatography on an Analogix SF15-12 g column and an eluant of ethyl acetate in heptane (30-100%) to afford the title compound as a white gum (319 mg, 34.9%). LC-MS m/z 446.0 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.35 (t, J=7.12 Hz, 3H) 1.75 (s, 3H) 2.40-2.58 (m, 2H) 3.10 (s, 3H) 3.87-3.99 (m, 1H) 4.16-4.25 (m, 1H) 4.29 (q, J=7.22 Hz, 2H) 7.15 (d, J=5.85 Hz, 1H) 7.20 (d, J=3.32 Hz, 1H).

reactant | Cesium carbonate | 6.16 mmol, 2.01 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-fluoro-4-iodopyridin-2(1H)-one | 2.06 mmol, 491 mg | FC=1C(=CC(NC1)=O)I | C5H3FINO
reactant | ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | BrCCC(C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Ethyl (2R)-4-(5-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | 319 mg, 34.9% | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)I | C13H17FINO5S
